US07384952B2
To a solution of 4-[[2-(dimethylamino)ethyl]amino]benzaldehyde (300 mg) in methylene chloride (4 mL) is added 2-methoxyethyl chloroformate (234 μL) and thereto is added dropwise pyridine (252 μL) under ice-cooling. The mixture is stirred at 50° C. for 2 days. The reaction mixture is diluted with chloroform (5 mL) and thereto is added a saturated sodium hydrogencarbonate solution (10 mL). After stirring, the organic layer is separated and concentrated. The residue is purified by column chromatography on silica gel (Solvent; chloroform:methanol=100:0→90:10) to give 4-[N-[(2-methoxyethoxy)carbonyl]-N-[2-(dimethylamino)ethyl]amino]benzaldehyde (290 mg, yield; 63%) as an amorphous powder. MS (APCI) m/z: 294 [M+H]+

reactant | 4-[[2-(dimethylamino)ethyl]amino]benzaldehyde | 300 mg | CN(CCNC1=CC=C(C=O)C=C1)C | C11H16N2O
reactant | 2-methoxyethyl chloroformate | 234 μL | ClC(=O)OCCOC | C4H7ClO3
reactant | pyridine | 252 μL | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogencarbonate | 10 mL | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-[N-[(2-methoxyethoxy)carbonyl]-N-[2-(dimethylamino)ethyl]amino]benzaldehyde | 290 mg, yield; 63% | COCCOC(=O)N(CCN(C)C)C1=CC=C(C=O)C=C1 | C15H22N2O4
